US06566307B1
(5-Methoxy-1-cyclopropyl-1H-pyrazol-4-yl)(4-methylsulfonyl-2-methoxy-3-vinylphenyl)methanone
SOCl2 (1.2 g, 10 mmol) was added to a solution of 4-methylsulfonyl-2-methoxy-3-vinylbenzoic acid (1.6 g, 6 mmol) in toluene (60 ml) and the mixture was heated at reflux for 2 h. The mixture was then concentrated and the product was added to a solution of N-isopropylpyrazolone (6 mmol), K2CO3 (1.6 g, 11.6 mmol) in DME (30 ml) and the mixture was stirred at RT overnight. The mixture was subsequently heated at reflux for 2 h and concentrated and the residue was dissolved in H2O. The H2O phase was extracted 3× with CH2Cl2, and the combined organic phases were dried over MgSO4 and concentrated.

reactant | SOCl2 | 10 mmol, 1.2 g | O=S(Cl)Cl | Cl2OS
reactant | 4-methylsulfonyl-2-methoxy-3-vinylbenzoic acid | 6 mmol, 1.6 g | CS(=O)(=O)C1=C(C(=C(C(=O)O)C=C1)OC)C=C | C11H12O5S
reactant | N-isopropylpyrazolone | 6 mmol | C(C)(C)N1NC(C=C1)=O | C6H10N2O
reactant | K2CO3 | 11.6 mmol, 1.6 g | C(=O)([O-])[O-].[K+].[K+]
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
solvent | DME | 30 ml | COCCOC | C4H10O2
product | (5-Methoxy-1-cyclopropyl-1H-pyrazol-4-yl)(4-methylsulfonyl-2-methoxy-3-vinylphenyl)methanone | COC1=C(C=NN1C1CC1)C(=O)C1=C(C(=C(C=C1)S(=O)(=O)C)C=C)OC | C18H20N2O5S
